US06642389B2
b] (S)-4-Benzyl-3-((2S)-2-methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionyl)-oxazolidin-2-one
The above prepared (S)-4-benzyl-3-((2S,3R)-3-hydroxy-2-methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionyl)-oxazolidin-2-one (0.255 g, 0.42 mmol) was dissolved in 2.2 ml of trifluoroacetic acid, treated at 0° with 0.663 ml of triethylsilane (10 eq.) and then kept for 3 h at ambient temperature, when TLC indicated the disappearance of starting material. The reaction mixture was poured onto crashed ice/AcOEt/NaHCO3, the organic layer washed with water and brine (pH of aq. phase˜8), dried over magnesium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=7/3) delivered 0.196 g of the title compound as colorless foam.

reactant | (S)-4-benzyl-3-((2S,3R)-3-hydroxy-2-methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionyl)-oxazolidin-2-one | 0.42 mmol, 0.255 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@@H](C1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)O)OC)=O | C34H32N2O7S
reactant | triethylsilane | 0.663 ml, 10 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 2.2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-4-Benzyl-3-((2S)-2-methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionyl)-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)OC)=O | C34H32N2O6S
